US07592456B2
A mixture of 6-bromo-2-naphthol (12.0 g, 52.2 mmol), 5-fluoro-2-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)benzonitrile (16.7 g, 67.6 mmol, prepared according to the method disclosed in patent WO/2003099816), sodium carbonate solution (2M, 75 mL) and tetrakis(triphenylphosphine)palladium (0) (1.2 g, 1.0 mmol) in 1,4-dioxane (360 mL) was heated at 80° C. for 17 hours. It was allowed to cool then poured into dilute hydrochloric acid (1 M, 360 mL) and extracted with ethyl acetate (3×200 mL). These extracts were washed with water and brine then dried (MgSO4), filtered and the solution concentrated in vacuo to a volume of ˜100 mL. Solid was filtered off and sucked dry to give 5-fluoro-2-(6-hydroxy-2-naphthyl)benzamide as a white solid. This solid (6.3 g, 22.4 mmol) was suspended in dichloromethane (130 mL)/pyridine (11 mL) at 0° C. under nitrogen, and trifluoromethane sulfonic anhydride (11 mL, 65.5 mmol) added gradually over 40 minutes before leaving overnight to return to ambient temperature. Solvent was removed in vacuo, water (400 mL) added and extracted into ethyl acetate (2×300 mL). These extracts were washed with water and brine then dried (MgSO4), filtered and solvent removed in vacuo. Purification by flash column chromatography eluting with 10% ethyl acetate/isohexane gave 6-(2-cyano-4-fluorophenyl)-2-naphthyl trifluoromethanesulfonate (8.0 g, 38%). 1H NMR (500 MHz, CDCl3) δ 8.06 (1H, s), 8.01 (2H, dd, J=4.0, 9.0 Hz), 7.82 (1H, d, J=2.3 Hz), 7.73 (1H, dd, J=1.7, 8.5 Hz), 7.60 (1H, dd, J=5.2, 8.6 Hz), 7.53 (1H, dd, J=2.6, 7.9 Hz), 7.47-7.41 (2H, m).

reactant | 6-bromo-2-naphthol | 52.2 mmol, 12.0 g | BrC=1C=C2C=CC(=CC2=CC1)O | C10H7BrO
reactant | 5-fluoro-2-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)benzonitrile | FC=1C=CC(=C(C#N)C1)B1OC(C(O1)(C)C)(C)C | C13H15BFNO2
reactant | sodium carbonate | 2M, 75 mL | C([O-])([O-])=O.[Na+].[Na+]
reactant | hydrochloric acid | 1 M, 360 mL | Cl | ClH
solvent | 1,4-dioxane | 360 mL | O1CCOCC1 | C4H8O2
catalyst | tetrakis(triphenylphosphine)palladium | 1.0 mmol, 1.2 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 5-fluoro-2-(6-hydroxy-2-naphthyl)benzamide | FC=1C=CC(=C(C(=O)N)C1)C1=CC2=CC=C(C=C2C=C1)O | C17H12FNO2
